US06262040B1
1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (2-benzyloxycarbamoyl-ethyl)-amide
This compound was prepared according to the method of Example 37, using 250 mg (0.759 mmol, 1.0 equiv) 3-[(1-cyclopentyl-3-ethyl-1H-indazole-6-carbonyl)-amino]-propionic acid and 121 mg (0.759 mmol, 1.0 equiv) O-benzylhydroxylamine hydrochloride as starting materials, to give 237 mg (72%) of a white solid: mp 134-136° C.; Anal. calcd for C25H30N4O3: C, 69.10; H, 6.96; N, 12.89. Found: C, 69.36; H, 6.75; N, 12.85.

reactant | 3-[(1-cyclopentyl-3-ethyl-1H-indazole-6-carbonyl)-amino]-propionic acid | 0.759 mmol, 250 mg, 1.0 equiv | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C(=O)NCCC(=O)O)CC | C18H23N3O3
reactant | O-benzylhydroxylamine hydrochloride | 0.759 mmol, 121 mg, 1.0 equiv | Cl.C(C1=CC=CC=C1)ON
product | 1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (2-benzyloxycarbamoyl-ethyl)-amide | 237 mg, 72% | C(C1=CC=CC=C1)ONC(=O)CCNC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC | C25H30N4O3
